US05475106
Using a procedure similar to that described in Example 11, but starting with 2-[2-amino-N-(2-chlorophenyl)acetamido]-N-methyl-N-phenylacetamide (3.4 g) and 3-methylphenyl isocyanate (1.4 g), and after recrystallisation in acetonitrile, 2-{N-(2-chlorophenyl)-2-[3-(3-methylphenyl)ureido]acetamido}-N-methyl-N-phenylacetamide (2.2 g), m.p. 180° C., is obtained.

reactant | 2-[2-amino-N-(2-chlorophenyl)acetamido]-N-methyl-N-phenylacetamide | 3.4 g | NCC(=O)N(C1=C(C=CC=C1)Cl)CC(=O)N(C1=CC=CC=C1)C | C17H18ClN3O2
reactant | 3-methylphenyl isocyanate | 1.4 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | 2-{N-(2-chlorophenyl)-2-[3-(3-methylphenyl)ureido]acetamido}-N-methyl-N-phenylacetamide | 2.2 g | ClC1=C(C=CC=C1)N(C(CNC(=O)NC1=CC(=CC=C1)C)=O)CC(=O)N(C1=CC=CC=C1)C | C25H25ClN4O3
